US05807864
3-Ethylaminopropionic acid (19.8 g) was reacted with 4-chloro-2-methylphenylisothiocyanate (20 g), triethylamine (20 g), and methylene chloride (250 mL) according to the procedure described in step 2 of Example 1 to give 12 g of 3-[3-(4-chloro-2-methylphenyl)-1-ethyl-thioureido]propionic acid. The product (12 g) was dissolved in acetone (245 mL). Conc. HCl (5 mL) was added and the mixture was heated at reflux for 18 hours. The reaction mixture was evaporated to dryness. The residue was dissolved in methylene chloride (100 mL), and washed with 1N NaOH. The organic phase was dried over anhydrous magnesium sulfate, then evaporated to dryness. The solid was recrystallized from ethanol. The title compound (8 g) was obtained as a white solid., m.p. 133°-136° C.

reactant | 3-Ethylaminopropionic acid | 19.8 g | C(C)NCCC(=O)O | C5H11NO2
reactant | 4-chloro-2-methylphenylisothiocyanate | 20 g | ClC1=CC(=C(C=C1)N=C=S)C | C8H6ClNS
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(4-chloro-2-methylphenyl)-1-ethyl-thioureido]propionic acid | 12 g | ClC1=CC(=C(C=C1)NC(N(CC)CCC(=O)O)=S)C | C13H17ClN2O2S
